US04489075
A solution of sulphuryl chloride (7.5 g) in dichloromethane (20 cm3) was added dropwise over 15 minutes to a stirred solution of N-[2-(4-pyridyl)ethyl]-1,3-diaminopropane (10.0 g) in dichloromethane (100 cm3) and triethylamine (11.2 g) at -20°. The mixture was allowed to warm slowly to room temperature over 1 hour. After stirring for 16 hours the solution was filtered and sodium carbonate solution (50 cm3) was added. The aqueous phase was extracted with methylene chloride (2×50 cm3) and the dried (MgSO4) extracts were evaporated in vacuo to give an oil which was chromatographed on silica ("Merck 60. 9385") eluting with methanol:ethyl acetate, 1:19, to give a solid which was recrystallised from ethanol to afford 2-[2-(4-pyridyl)ethyl] tetrahydro-1,2,6-thiadiazine-1,1-dioxide, m.p. 124°-125° (2.0 g).

reactant | sulphuryl chloride | 7.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N-[2-(4-pyridyl)ethyl]-1,3-diaminopropane | 10.0 g | N1=CC=C(C=C1)CCNCCCN | C10H17N3
reactant | triethylamine | 11.2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | 2-[2-(4-pyridyl)ethyl] tetrahydro-1,2,6-thiadiazine-1,1-dioxide | N1=CC=C(C=C1)CCN1S(NCCC1)(=O)=O | C10H15N3O2S
